US08003647B2
4-[6-(2-Benzyloxycarbonylaminoethyloxy)-3-cyanoindol-1-yl] -2-methoxymethoxybenzoic acid ethyl ester
To a solution of 4-(3-cyano-6-hydroxyindol-1-yl)-2-methoxymethoxybenzoic acid ethyl ester (0.37 g) in N,N-dimethylformamide (10 mL) were added (2-bromoethyl)carbamic acid benzyl ester (0.39 g) and potassium carbonate (0.28 g), and this mixture was stirred at 50° C. overnight. This reaction mixture was poured into water, and the precipitated solid was collected by filtration. This solid was washed with methanol, and dried to give the title compound (0.40 g).

reactant | 4-(3-cyano-6-hydroxyindol-1-yl)-2-methoxymethoxybenzoic acid ethyl ester | 0.37 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C2=CC=C(C=C12)O)C#N)OCOC)=O | C20H18N2O5
reactant | (2-bromoethyl)carbamic acid benzyl ester | 0.39 g | C(C1=CC=CC=C1)OC(NCCBr)=O | C10H12BrNO2
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-[6-(2-Benzyloxycarbonylaminoethyloxy)-3-cyanoindol-1-yl] -2-methoxymethoxybenzoic acid ethyl ester | 0.40 g | C(C)OC(C1=C(C=C(C=C1)N1C=C(C2=CC=C(C=C12)OCCNC(=O)OCC1=CC=CC=C1)C#N)OCOC)=O | C30H29N3O7
